2169-10-21 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Insulin drip stopped
   Vascular surgery will take sometime this morning
   Bolused 500cc again for tachycardia
   Spiked to 102
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-21**] 06:39 AM
   Vancomycin - [**2169-10-21**] 07:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-21**] 12:34 AM
   Morphine Sulfate - [**2169-10-21**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 123 (104 - 123) bpm
   BP: 139/59(79) {98/25(44) - 139/69(79)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,527 mL
                                                                  1,661 mL
   PO:
             TF:
   IVF:
                                                                  2,027 mL
                                                                  1,661 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    570 mL
   Urine:
                                                                    260 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,167 mL
                                                                  1,091 mL
   Respiratory support
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Ext- foot cellulits with necrotic toe
   Labs / Radiology
   462 K/uL
   9.7 g/dL
   155 mg/dL
   0.6 mg/dL
   18 mEq/L
   4.8 mEq/L
   9 mg/dL
   107 mEq/L
   136 mEq/L
   28.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
   WBC
   16.1
   Hct
   28.4
   Plt
   462
   Cr
   0.7
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   306
   155
   Other labs: CK / CKMB / Troponin-T:70/3/<0.01, ALT / AST:[**1-11**], Alk
   Phos / T Bili:95/0.2, Lactic Acid:1.2 mmol/L, LDH:140 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a  62 yo F w/ DMII p/w DKA and deep tissue
   infection of L foot.
   .
   #  Diabetic foot infection: Continues to be tachycardic, SIRS, spiking
   temp to 102. Has been on Abx for less than 24hrs. UOP has been very
   good.  Amputation will be definitive management
   - Bolus IVF to keep UOP>50cc/hr
   - Unasyn and vanc to continue for now
   - To OR soon  for toe amputation and exploration
   - will f/u cultues and pathology
   #  DKA: resolved, anion gap closed, now w/ hyperchloremia. Was on
   insulin gtt, now off.
   - Q4 finger sticks/SSI
   - Started 4U glargine Qam
   - IVF as needed
   # RBBB: unclear if old or new, no chest pain
   - trop was negative x 1
   # FEN: IVF, replete electrolytes, NPO for surgery
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: Confirmed full
   # Communication: Patient
   Son [**Name (NI) 653**] [**Doctor Last Name 129**] [**Telephone/Fax (1) 10095**]
   Daughter [**First Name8 (NamePattern2) 2112**] [**Known lastname 10096**] [**Telephone/Fax (1) 10097**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: no PPI needed
   Code status: Full code
   Disposition: ICU before surgery, if stable afterwards will go to floor

2169-10-22 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2169-10-21**] 10:21 AM
 OR RECEIVED - At [**2169-10-21**] 11:50 AM
 BLOOD CULTURED - At [**2169-10-21**] 12:17 PM
 FEVER - 103.7
F - [**2169-10-21**] 01:00 PM
   [**10-21**]
   - went to OR for 4th toe amputation, had purrulent material from 4th
   digit metatarsal to sole and 2nd metatarsal to sole
   - in OR had some ST changes an was tachy and HTN post op, had rigors,
   in OR given labetolol 20mg IV x 1, on floor BP in 180s-200, and was
   given labetolol 5mg, NS x 500ml, and demerol 25mg x 1 for rigors
   - temp spiked to 103.7 post op, then BP dropped to 70s, was given 3
   liters of NS and tylenol 1g
   - later in afteroon temp spiked again and pt was tachy, was given
   Motrin 600mg, NS x 1 liter
   - at 10pm BP to 80s, gave 3 L IVF, temp up to 101.9, gave tylenol 1g
   - had more hypotension at 12:30 AM, gave 2 liters of NS, pressures
   remained stable afterwards, had brief dyspnea was on 4 liters oxygen,
   then later off oxygen without intervetion
   - wound with GPC in pairs and clusters on prelim cx
   - will need to go to OR on Monday for further debridment and possible
   further amputation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-21**] 08:20 PM
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-22**] 02:00 AM
   Ampicillin - [**2169-10-22**] 07:42 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2169-10-21**] 11:30 AM
   Meperidine (Demerol) - [**2169-10-21**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2169-10-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-22**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 36
C (96.8
   HR: 97 (82 - 143) bpm
   BP: 136/57(87) {78/40(56) - 216/85(127)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 10,677 mL
                                                                  1,270 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                 10,317 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    460 mL
   Urine:
                                                                  2,010 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,667 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/33/135/15/-4
   Physical Examination
   Gen- sitting comfortably, AOx 3, well appearing, well nourished, NAD
   HEENT- NC/AT, EOMI, PERRL, anicteric
   Neck: supple, JVP not elevated
   Cor- Tachycardic, normal S1 + S2, no m/r/g,
   Pulm- lungs CTA b/l; no wheezes, rales, or rhonchi, no supraclavicular
   or subcostal retractions
   Abd- s/nt/nd, +BS, no hernia, no scars, no rebound or guarding, no
   organomegaly, negative [**Doctor Last Name 1850**] sign
   Extremities: L 4th toe necrotic, diffuse erythema of L foot to ankle
   with large 4x4cm blood filled blister on plantar aspect. Warm/WP
   Neurologic: no focal deficits, CN II-XII grossly intact
   Labs / Radiology
   428 K/uL
   8.6 g/dL
   186 mg/dL
   0.4 mg/dL
   15 mEq/L
   3.6 mEq/L
   4 mg/dL
   116 mEq/L
   139 mEq/L
   26.9 %
   19.6 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
                             [**2169-10-21**]  07:31 AM
                             [**2169-10-21**]  10:56 AM
                             [**2169-10-21**]  11:48 AM
                             [**2169-10-21**]  07:46 PM
                             [**2169-10-22**]  02:20 AM
   WBC
   16.1
   19.6
   19.6
   19.6
   Hct
   28.4
   27.7
   31
   31.0
   25.9
   26.9
   Plt
   462
   551
   424
   428
   Cr
   0.7
   0.6
   0.5
   0.5
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 10139**]61
   193
   186
   Other labs: PT / PTT / INR:13.3/33.7/1.1, CK / CKMB /
   Troponin-T:72/3/<0.01, ALT / AST:[**1-11**], Alk Phos / T Bili:95/0.2,
   Differential-Neuts:87.2 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:140 IU/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
[**2169-10-21**] 10:35 am FOOT CULTURE
      LEFT FOOT CULTURE //LEFT TOE (4TH).
   GRAM STAIN (Final [**2169-10-21**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   WOUND CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
   This is a  62 yo F w/ DMII p/w DKA and deep tissue infection of L foot
   with septic shock
   .
   #  Diabetic foot infection/Septic shock: continues to be tachycardic,
   SIRS, spiking temp to 102. Has been on Abx for less than 24hrs. UOP has
   been very good.  Amputation will be definitive management. Cultures
   show GPC from foot. After surgery pt had intermitent fevers with
   hypotension, responded to aggressive IVF. BP is now more stable.
   - Bolus IVF to keep UOP>50cc/hr, if needed will place centeral line
   - Unasyn and vanc to continue for now
   - To OR again on Monday for further debridement (NPO after MN)
   - will f/u cultues and pathology
   - tylenol scheduled
   - Motrin PRN for pain
   - morphine PRN for pain (if BP is stable)
   - appreciate vasc [**Doctor First Name 213**] recs
 to get noninvasives, [**Hospital1 7**] dry dressings
   #  DKA: resolved, anion gap closed, now w/ hyperchloremia. Was on
   insulin gtt, now off. On SSI.
   - QIDACHS FS
   - NPH 5 units [**Hospital1 7**]
   - IVF as needed
   # Hypertension: SBP in 150-180s
   - start beta blocker or ACE-I
   - monitor BPs
   # Shortness of breath: brief hypoxia likely [**3-6**] IVF resuscitation, COPD
   - IS
   - OOB
   - CXR
   - O2 88-94%
   # RBBB: unclear if old or new, no chest pain
   - trop was negative x 1
   # FEN: IVF, replete electrolytes, NPO for surgery
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals  18 x 3
   # Code: Confirmed full
   # Communication: Patient
   Son [**Name (NI) 653**] [**Doctor Last Name 129**] [**Telephone/Fax (1) 10095**]
   Daughter [**First Name8 (NamePattern2) 2112**] [**Known lastname 10096**] [**Telephone/Fax (1) 10097**]
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Arterial Line - [**2169-10-21**] 10:21 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: non needed
   :
   Communication:  Comments: son and daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2169-10-22 09:43:00 Physician Attending Progress Note
Chief Complaint: cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Post op HTN, to 200 systolic, and fever spike to 103.7, then Blood
   pressures dropped to 80s systolic, s/p cultures. received another 3L of
   IVF with good response, recurrent hypotension overnight responded to
   IVF. Respiratory status stable. A-line placed.
                              History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-22**] 02:00 AM
   Ampicillin - [**2169-10-22**] 07:42 AM
   Vancomycin - [**2169-10-22**] 08:14 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2169-10-21**] 11:30 AM
   Meperidine (Demerol) - [**2169-10-21**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2169-10-21**] 08:00 PM
   Morphine Sulfate - [**2169-10-22**] 08:14 AM
   Other medications:
   Colace [**Hospital1 **], tylenol standing q8hours, morphine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-22**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 36
C (96.8
   HR: 97 (82 - 143) bpm
   BP: 137/74(101) {78/40(56) - 216/85(127)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 10,677 mL
                                                                  1,587 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                 10,317 mL
                                                                  1,467 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    460 mL
   Urine:
                                                                  2,010 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,667 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.37/33/135/15/-4
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: periorbital edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered anteriorly, Diminished: at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   428 K/uL
   186 mg/dL
   0.4 mg/dL
   15 mEq/L
   3.6 mEq/L
   4 mg/dL
   116 mEq/L
   139 mEq/L
   26.9 %
   19.6 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
                             [**2169-10-21**]  07:31 AM
                             [**2169-10-21**]  10:56 AM
                             [**2169-10-21**]  11:48 AM
                             [**2169-10-21**]  07:46 PM
                             [**2169-10-22**]  02:20 AM
   WBC
   16.1
   19.6
   19.6
   19.6
   Hct
   28.4
   27.7
   31
   31.0
   25.9
   26.9
   Plt
   462
   551
   424
   428
   Cr
   0.7
   0.6
   0.5
   0.5
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 10139**]61
   193
   186
   Other labs: PT / PTT / INR:13.3/33.7/1.1, CK / CKMB /
   Troponin-T:72/3/<0.01, ALT / AST:[**1-11**], Alk Phos / T Bili:95/0.2,
   Differential-Neuts:87.2 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:140 IU/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Microbiology: wound culture gram + cocci in clusters
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):
   likely baseline hypertensive on no therapy, BP low yesterday responded
   to IVF likely post op, ? transient bactermia post op, now improved.
   Creatinine and urine output stable. Source likely her foot ulcer.
   Continue Vanco/unasyn, f/u cultures. Now hypertensive start low dose
   ace-I
Hypoxemia: atelectasis vs volume overload, will check CXR, OOB in
   chair, incentive spirometry.
 CELLULITIS:
   To OR again for debridment in am, continue with wound care and pain
   management with iv morphine prn. Check Arterial LENI.
 DIABETIC KETOACIDOSIS (DKA):
   resolved, gap now closed, now on NPH 5bid, and sliding scale. Sugars in
   mid to high 100s, encourage Po diet and titrate up NPH accordingly.
   ICU Care
   Nutrition:
   Comments: po diet now, NPO after midnight. Repleted electrolytes,
   recheck Chem 7 this pm.
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Arterial Line - [**2169-10-21**] 10:21 AM
   Comments: 3 x 18gauge iv
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2169-10-23 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vascular would like on Hamdan's service after procedure tomorrow ([**4-5**]
   PM)
   - ordered noninvasives prior to procedure
   - nicotine patch ordered
   - increased vanco to 1250 mg q12 due to low trough
   - metoprolol 12.5 mg [**Hospital1 7**] given for elevated BP / tachy / periop
   - lasix 20 IV x 1 given for peripheral edema / HTN with brisk uop
   - ABP and cuff not correlating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2169-10-22**] 07:42 AM
   Vancomycin - [**2169-10-22**] 08:52 PM
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-23**] 02:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-10-22**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-22**] 07:53 PM
   Morphine Sulfate - [**2169-10-23**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 100 (82 - 111) bpm
   BP: 165/67(105) {92/48(64) - 165/75(107)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,873 mL
                                                                    172 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,913 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    205 mL
   Urine:
                                                                  1,600 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Gen- sitting comfortably, AOx 3, well appearing, well nourished, NAD
   HEENT- NC/AT, EOMI, PERRL, anicteric
   Neck: supple, JVP not elevated
   Cor- Tachycardic, normal S1 + S2, no m/r/g,
   Pulm- lungs CTA b/l; no wheezes, rales, or rhonchi, no supraclavicular
   or subcostal retractions
   Abd- s/nt/nd, +BS, no hernia, no scars, no rebound or guarding, no
   organomegaly, negative [**Doctor Last Name 1850**] sign
   Extremities: L 4th toe necrotic, diffuse erythema of L foot to ankle
   with large 4x4cm blood filled blister on plantar aspect. Warm/WP
   Neurologic: no focal deficits, CN II-XII grossly intact
   Labs / Radiology
   485 K/uL
   8.4 g/dL
   151 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   5 mg/dL
   113 mEq/L
   140 mEq/L
   26.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
                             [**2169-10-21**]  07:31 AM
                             [**2169-10-21**]  10:56 AM
                             [**2169-10-21**]  11:48 AM
                             [**2169-10-21**]  07:46 PM
                             [**2169-10-22**]  02:20 AM
                             [**2169-10-22**]  03:15 PM
                             [**2169-10-23**]  04:15 AM
   WBC
   16.1
   19.6
   19.6
   19.6
   12.8
   Hct
   28.4
   27.7
   31
   31.0
   25.9
   26.9
   26.0
   Plt
   462
   551
   424
   428
   485
   Cr
   0.7
   0.6
   0.5
   0.5
   0.4
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 10139**]61
   193
   186
   153
   151
   Other labs: PT / PTT / INR:13.3/33.7/1.1, CK / CKMB /
   Troponin-T:72/3/<0.01, ALT / AST:[**1-11**], Alk Phos / T Bili:95/0.2,
   Differential-Neuts:87.2 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:140 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a  62 yo F w/ DMII p/w DKA and deep tissue infection of L foot
   with septic shock
   .
   #  Diabetic foot infection/Septic shock: continues to be tachycardic,
   SIRS, spiking temp to 102. Has been on Abx for less than 24hrs. UOP has
   been very good.  Amputation will be definitive management. Cultures
   show GPC from foot. After surgery pt had intermitent fevers with
   hypotension, responded to aggressive IVF. BP is now more stable.
   - Bolus IVF to keep UOP>50cc/hr, if needed will place centeral line
   - Unasyn and vanc to continue for now
   - To OR again on Monday for further debridement (NPO after MN)
   - will f/u cultues and pathology
   - tylenol scheduled
   - Motrin PRN for pain
   - morphine PRN for pain (if BP is stable)
   - appreciate vasc [**Doctor First Name 213**] recs
 to get noninvasives, [**Hospital1 7**] dry dressings
   #  DKA: resolved, anion gap closed, now w/ hyperchloremia. Was on
   insulin gtt, now off. On SSI.
   - QIDACHS FS
   - NPH 5 units [**Hospital1 7**]
   - IVF as needed
   # Hypertension: SBP in 150-180s
   - start beta blocker or ACE-I
   - monitor BPs
   # Shortness of breath: brief hypoxia likely [**3-6**] IVF resuscitation, COPD
   - IS
   - OOB
   - CXR
   - O2 88-94%
   # RBBB: unclear if old or new, no chest pain
   - trop was negative x 1
   # FEN: IVF, replete electrolytes, NPO for surgery
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals  18 x 3
   # Code: Confirmed full
   # Communication: Patient
   Son [**Name (NI) 653**] [**Doctor Last Name 129**] [**Telephone/Fax (1) 10095**]
   Daughter [**First Name8 (NamePattern2) 2112**] [**Known lastname 10096**] [**Telephone/Fax (1) 10097**]
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Arterial Line - [**2169-10-21**] 10:21 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: non needed
   :
   Communication:  Comments: son and daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2169-10-23 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night started on diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2169-10-22**] 07:42 AM
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-23**] 08:16 AM
   Vancomycin - [**2169-10-23**] 08:54 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-10-22**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-22**] 07:53 PM
   Morphine Sulfate - [**2169-10-23**] 08:45 AM
   Metoprolol - [**2169-10-23**] 11:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-23**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (82 - 111) bpm
   BP: 148/63(88) {92/48(64) - 172/78(111)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,873 mL
                                                                    562 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,913 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    495 mL
   Urine:
                                                                  1,600 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.4 g/dL
   485 K/uL
   151 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   5 mg/dL
   113 mEq/L
   140 mEq/L
   26.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
                             [**2169-10-21**]  07:31 AM
                             [**2169-10-21**]  10:56 AM
                             [**2169-10-21**]  11:48 AM
                             [**2169-10-21**]  07:46 PM
                             [**2169-10-22**]  02:20 AM
                             [**2169-10-22**]  03:15 PM
                             [**2169-10-23**]  04:15 AM
   WBC
   16.1
   19.6
   19.6
   19.6
   12.8
   Hct
   28.4
   27.7
   31
   31.0
   25.9
   26.9
   26.0
   Plt
   462
   551
   424
   428
   485
   Cr
   0.7
   0.6
   0.5
   0.5
   0.4
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 10139**]61
   193
   186
   153
   151
   Other labs: PT / PTT / INR:13.3/33.7/1.1, CK / CKMB /
   Troponin-T:72/3/<0.01, ALT / AST:[**1-11**], Alk Phos / T Bili:95/0.2,
   Differential-Neuts:87.2 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:140 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR stable hilar opacities
   Assessment and Plan
 HYPERTENSION, BENIGN:
   diurese gently today 20iv x1 to prevent respiratory dysfunction
   perioperatively, uptitrate bblocker for cardiac protection.
 Respiratory status: volume overload, diurese gently today 20iv x1 to
   prevent respiratory dysfunction perioperatively
 ACUTE PAIN
   morphine prn
 HYPOTENSION (NOT SHOCK):
   resolved
 HYPERGLYCEMIA:
   resolved on NPH
 CELLULITIS:
   Growing GBS, d/c vanco, continue unasyn follow up final culture from
   OR.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: + NPH
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Arterial Line - [**2169-10-21**] 10:21 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor under vascular after surgery with
   medical consult
   Total time spent: 30 minutes

2169-10-23 12:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vascular would like on Hamdan's service after procedure tomorrow ([**4-5**]
   PM)
   - ordered noninvasives prior to procedure
   - nicotine patch ordered
   - increased vanco to 1250 mg q12 due to low trough
   - metoprolol 12.5 mg [**Hospital1 7**] given for elevated BP / tachy / periop
   - lasix 20 IV x 1 given for peripheral edema / HTN with brisk uop
   - ABP and cuff not correlating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2169-10-22**] 07:42 AM
   Ampicillin/Sulbactam (Unasyn) - [**2169-10-23**] 08:16 AM
   Vancomycin - [**2169-10-23**] 08:54 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-10-22**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-22**] 07:53 PM
   Metoprolol - [**2169-10-23**] 11:05 AM
   Morphine Sulfate - [**2169-10-23**] 12:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-23**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 92 (82 - 111) bpm
   BP: 166/67(104) {92/48(64) - 172/78(111)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,873 mL
                                                                    578 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,913 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    495 mL
   Urine:
                                                                  1,600 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Gen- sitting comfortably, AOx 3, well appearing, well nourished, NAD
   HEENT- NC/AT, EOMI, PERRL, anicteric
   Neck: supple, JVP elevated to 10cm
   Cor- Tachycardic, normal S1 + S2, no m/r/g,
   Pulm- lungs with inspiratory crackles bilaterally
   Abd- s/nt/nd, +BS, no hernia, no scars, no rebound or guarding, no
   organomegaly, negative [**Doctor Last Name 1850**] sign
   Extremities: L 4th toe necrotic, diffuse erythema of L foot to ankle
   with large 4x4cm blood filled blister on plantar aspect. Warm/WP
   Neurologic: no focal deficits, CN II-XII grossly intact
   Labs / Radiology
   485 K/uL
   8.4 g/dL
   151 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   5 mg/dL
   113 mEq/L
   140 mEq/L
   26.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2169-10-20**]  07:15 PM
                             [**2169-10-21**]  01:07 AM
                             [**2169-10-21**]  07:31 AM
                             [**2169-10-21**]  10:56 AM
                             [**2169-10-21**]  11:48 AM
                             [**2169-10-21**]  07:46 PM
                             [**2169-10-22**]  02:20 AM
                             [**2169-10-22**]  03:15 PM
                             [**2169-10-23**]  04:15 AM
   WBC
   16.1
   19.6
   19.6
   19.6
   12.8
   Hct
   28.4
   27.7
   31
   31.0
   25.9
   26.9
   26.0
   Plt
   462
   551
   424
   428
   485
   Cr
   0.7
   0.6
   0.5
   0.5
   0.4
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 10139**]61
   193
   186
   153
   151
   Other labs: PT / PTT / INR:13.3/33.7/1.1, CK / CKMB /
   Troponin-T:72/3/<0.01, ALT / AST:[**1-11**], Alk Phos / T Bili:95/0.2,
   Differential-Neuts:87.2 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:140 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a  62 yo F w/ DMII p/w DKA and deep tissue infection of L foot
   with septic shock
   .
   #  Diabetic foot infection/Septic shock: met SIRS criteria originally
   but now has defervesed and has been hemodynamically stable for 24 hours
   with good UOP.  Definitive management in OR today. Cultures show GPC
   from foot that is strep, should be sensitive to ampicillin
   - Unasyn continues
   - vanc to  be discontinued
   - to OR after ABIs
   - will f/u cultues and pathology
   - tylenol scheduled
   - Motrin PRN for pain
   - morphine PRN for pain (if BP is stable)
   - cont [**Hospital1 7**] dry dressings
   #  DKA: resolved, anion gap closed, now w/ hyperchloremia. Was on
   insulin gtt, now off. On SSI.
   - QIDACHS FS
   - NPH 5 units [**Hospital1 7**]
   - hold IVF now as volume overloaded
   # Hypertension: SBP in 150-180s
   - started metoprolol 12.5mg [**Hospital1 7**] which can be uptitrate for improved
   control
   - monitor BPs, noninvasives seem to be more accurate
   # Shortness of breath: brief hypoxia likely [**3-6**] volume overload. Could
   be component of COPD. Put out well to 20mg Iv lasix
   - 20mg Iv lasix prior to OR
   - IS
   - OOB
   - CXR
   - O2 88-94%
   # RBBB: unclear if old or new, no chest pain
   - trop was negative x 1
   # FEN: hold IVF, replete electrolytes, NPO for surgery
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals  18 x 3
   # Code: Confirmed full
   # Communication: Patient
   Son [**Name (NI) 653**] [**Doctor Last Name 129**] [**Telephone/Fax (1) 10095**]
   Daughter [**First Name8 (NamePattern2) 2112**] [**Known lastname 10096**] [**Telephone/Fax (1) 10097**]
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Arterial Line - [**2169-10-21**] 10:21 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: non needed
   :
   Communication:  Comments: son and daughter
   [**Name (NI) 36**] status: Full code
   Disposition: to OR today and then to vascular surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: